US06933304B2
2-Cyano-3-pyridin-3-yl-but-2-enoic acid ethyl ester
1-Pyridin-3-yl-ethanone, ethyl cyanoacetate, benzene, ammonium acetate, and acetic acid were refluxed for 16 hrs in a 250 mL round bottomed flask fitted with a Dean-Stark trap. The solutions were washed with water and brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel chromatography to yield the product as an oil. MS (ESI+) for C12H12N2O2 m/z 217.2 (M+H)+.

reactant | 1-Pyridin-3-yl-ethanone | N1=CC(=CC=C1)C(C)=O | C7H7NO
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Cyano-3-pyridin-3-yl-but-2-enoic acid ethyl ester | C(C)OC(C(=C(C)C=1C=NC=CC1)C#N)=O | C12H12N2O2
